US07396844B1
Synthesis of 4-dimethylcarbamoylbenzoic acid
A solution of 5 g (25.2 mmol) of methyl 4-chlorocarbonyl benzoate in 20 ml of dioxane was added to 30 ml of 50% aqueous dimethylamine solution under cooling with ice. After stirring for 30 minutes, 50 ml of 1 N aqueous sodium hydroxide solution was added to the resultant mixture, and they were stirred at room temperature for 2 days. The reaction liquid was washed with ethyl acetate and made acidic with hydrochloric acid. After the extraction with ethyl acetate, the extract was washed with saturated Aqueous NaCl solution and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was washed with hexane and dried to obtain the title compound.

reactant | methyl 4-chlorocarbonyl benzoate | 25.2 mmol, 5 g | COC(=O)C1=CC=C(C=C1)C(=O)Cl | C9H7ClO3
reactant | dimethylamine | 30 ml | CNC | C2H7N
reactant | sodium hydroxide | 1 N, 50 ml | [OH-].[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 4-dimethylcarbamoylbenzoic acid | CN(C(=O)C1=CC=C(C(=O)O)C=C1)C | C10H11NO3
